US09428469B2
Tert-butyl 5-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)pyridin-2-ylcarbamate (Compound 6)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (70 mg, 287 μmol) and tert-butyl (5-formylpyridine-2-yl)carbamate (159 mg, 717 μmol) in MeOH (3 ml) was stirred at 45° C. for overnight to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (163 mg, 4.3 mmol) was added in a few portions and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated in vacuo. Purification by flash chromatography (silica gel, 24 g, 3% to 6% MeOH in DCM) afforded a white solid as desired product (60.8 mg, 47% yield). MS +m/z: 450 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | tert-butyl (5-formylpyridine-2-yl)carbamate | 717 μmol, 159 mg | C(=O)C=1C=CC(=NC1)NC(OC(C)(C)C)=O | C11H14N2O3
reactant | NaBH4 | 4.3 mmol, 163 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | Tert-butyl 5-((3-(3,5-dichlorophenylamino)-1H-1,2,4-triazol-5-ylamino)methyl)pyridin-2-ylcarbamate | 60.8 mg, 47% yield | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)NCC=1C=CC(=NC1)NC(OC(C)(C)C)=O | C19H21Cl2N7O2
